US07825253B2
N2-(5-Methyl-furan-2-ylmethyl)-N5-(1-methyl-1H-pyrrol-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=347.3 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 5-methyl-2-furanmethanamine and 1-methylpyrrol-2-carbaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 1-methylpyrrol-2-carbaldehyde | CN1C(=CC=C1)C=O | C6H7NO
product | N2-(5-Methyl-furan-2-ylmethyl)-N5-(1-methyl-1H-pyrrol-2-ylmethyl)-quinoline-2,5-diamine | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)NCC=1N(C=CC1)C | C21H22N4O
